US04250094
In the manner given in Example 1, 8-nitro-1-(bromomethyl)-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine was reacted with dimethylamine in the presence of sodium iodide to give 1-[(dimethylamino)methyl]-8-nitro-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine.

reactant | 8-nitro-1-(bromomethyl)-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine | [N+](=O)([O-])C=1C=CC2=C(C(=NCC=3N2C(=NN3)CBr)C3=C(C=CC=C3)Cl)C1 | C17H11BrClN5O2
reactant | dimethylamine | CNC | C2H7N
reactant | sodium iodide | [I-].[Na+]
product | 1-[(dimethylamino)methyl]-8-nitro-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine | CN(C)CC1=NN=C2N1C1=C(C(=NC2)C2=C(C=CC=C2)Cl)C=C(C=C1)[N+](=O)[O-] | C19H17ClN6O2
